US09034900B2
Step 1: ethyl 4-methyl-2-(1-methylpyrazol-4-yl)pyrimidine-5-carboxylate
Ethyl 2-chloro-4-methylpyrimidine-5-carboxylate (1.0 g, 5.0 mmol), 1-methyl-4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.24 g, 6.0 mmol), K3PO4 (3.18 mg, 15.0 mmol) and Pd(dppf)Cl2 (100 mg) in dioxane (15 mL) and H2O (3 mL) were heated at 120° C. for 18 h under N2. Silica gel chromatography (PE:EA=3:1 to 1:1) gave the title compound (72 mg, yield: 32.0%). 1H NMR (CDCl3, 400 MHz) δ 9.08 (s, 1H), 8.22 (s, 1H), 8.15 (s, 1H), 4.40 (q, J=7.2 Hz, 2H), 3.98 (s, 3H), 2.82 (s, 3H), 1.42 (t, J=7.2 Hz, 3H). LCMS: 247.1 (M+1)+.

reactant | Ethyl 2-chloro-4-methylpyrimidine-5-carboxylate | 5.0 mmol, 1.0 g | ClC1=NC=C(C(=N1)C)C(=O)OCC | C8H9ClN2O2
reactant | 1-methyl-4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 6.0 mmol, 1.24 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | K3PO4 | 15.0 mmol, 3.18 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | EA | CC(OCC)=O | C4H8O2
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 3 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 100 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 4-methyl-2-(1-methylpyrazol-4-yl)pyrimidine-5-carboxylate | 72 mg, yield: 32.0% | CC1=NC(=NC=C1C(=O)OCC)C=1C=NN(C1)C | C12H14N4O2
